US07423181B2
2-Hydroxy-5-(tetrahydro-pyran-2-yloxy)-benzaldehyde
A solution of 2,5-dihydroxy-benzaldehyde (152 mmol), 3,4-dihydro-2H-pyran (167 mmol) and a catalytic amount of pyridinium p-toluenesulfonate in CH2Cl2 (480 mL) was left overnight at room temperature. The organic phase was washed with 1 N Na7CO3 (aq) (3×100 mL) and dried (Na2SO4). Evaporation in vacuo gave the desired product as brown crystals that was used without further purification. 1H-NMR (CDCl3) δ 10.72 (s, 1H), 9.88 (s, 1H), 7.32-7.29 (m, 2H), 6.96 (d, 1H), 5.38 (bs, 1H), 3.99-3.91 (m, 1H), 3.69-3.64 (m, 1H), 2.06-1.63 (m, 6H).

reactant | 2,5-dihydroxy-benzaldehyde | 152 mmol | OC1=C(C=O)C=C(C=C1)O | C7H6O3
reactant | 3,4-dihydro-2H-pyran | 167 mmol | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 480 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxy-5-(tetrahydro-pyran-2-yloxy)-benzaldehyde | OC1=C(C=O)C=C(C=C1)OC1OCCCC1 | C12H14O4
